US05763489
To a solution of 2-methoxycarbonyl-5-methoxy-1-oxo-1,2,3,4-tetrahydronaphthalene (3.9 g) in tetrahydrofuran (50 ml) were added NaH (0.73 g, 60% in oil) and then methyl iodide (3 ml) at 0° C. under N2. After being stirred for 1 hour at room temperature, the solution was poured into a mixture of ethyl acetate and water. The organic layer was washed with 1N--HCl solution, sat. NaHCO3, and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford 2-methyl-2-methoxycarbonyl-5-methoxy-1-oxo-1,2,3,4-tetrahydronaphthalene (4.0 g).

reactant | 2-methoxycarbonyl-5-methoxy-1-oxo-1,2,3,4-tetrahydronaphthalene | 3.9 g | COC(=O)C1C(C2=CC=CC(=C2CC1)OC)=O | C13H14O4
reactant | NaH | 0.73 g | [H-].[Na+]
reactant | methyl iodide | 3 ml | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-methyl-2-methoxycarbonyl-5-methoxy-1-oxo-1,2,3,4-tetrahydronaphthalene | 4.0 g | CC1(C(C2=CC=CC(=C2CC1)OC)=O)C(=O)OC | C14H16O4
